* -*- spice -*-
* http://www.nxp.com/documents/spice_model/DRRE02VSM4S.prm
*
*******************************************
*
* DRRE02VSM4S
* 
* NXP Semiconductors
* 
* High-speed diodes
* 
* VRRM = 100V
* IFRM = 450 mA 
* trr  = 4ns
* 
* Package pinning does not match Spice model pinning.
* Package: SOD 27
* 
* Package Pin 1 : Cathode
* Package Pin 2 : Anode
* 
* Simulator: PSPICE
*
*******************************************
*
.SUBCKT DRRE02VSM4S 1 2 
*
* The resistor R1 does not reflect 
* a physical device. Instead it
* improves modeling in the reverse 
* mode of operation.
*
R1 1 2 5.827E+9 
D1 1 2 DRRE02VSM4S
*
.MODEL DRRE02VSM4S D 
+ IS = 24.195E-12 
+ N = 1.5366
+ BV = 400 
+ IBV = 218.42E-12
+ RS = .23596
+ CJO = 3.4000E-12
+ VJ = .50899
+ M = .31934
+ FC = 0.5 
+ TT = 810.00E-9
.ENDS
*
