* RR274EA-400_TH THERMAL model
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2011/02/23
* Mounted on 25mm x 25mm x 0.8mm
* glass epoxy board with both side copper
* operational environment at 1 element 
* Tj-Junction Ta-Ambient
.SUBCKT RR274EA-400_TH Tj Ta
C1 Tj Ta 225u
C2  2 Ta 720u
C3  3 Ta 18.9m
C4  4 Ta 867m
R1 Tj  2 5.78
R2  2  3 33.2
R3  3  4 56.6
R4  4 Ta 54.5
.ENDS RR274EA-400_TH





