* RRE02VSM4S_TH THERMAL model
* PKG: TUMD2SM Vrm=400V,Io=0.2A
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or Resale Restricted
* Date: 2015/09/04
* Mounted on 25mm x 25mm x 0.8mm
* glass epoxy board with both side copper
* Tj-Junction Ta-Ambient
.SUBCKT RRE02VSM4S_TH Tj Ta
C1 Tj Ta  142.4u
C2  2 Ta  2.009m
C3  3 Ta  23.31m
C4  4 Ta  742.2m
R1 Tj  2  12.74
R2  2  3  23.17
R3  3  4  26.89
R4  4 Ta  93.36
.ENDS RRE02VSM4S_TH





